US04983592
3-Methoxy-1-tetradecyl-benzene
A 4.87 g portion of magnesium was placed in a two-necked round bottom flask. The flask was flamed several times and 37.4 g of m-bromoanisole and 200 ml of tetrahydrofuran were added. As soon as the reaction stopped it was refluxed for 1 hour and then added to a boiling solution of 52.68 g of tetradecyl bromide in tetrahydrofuran. Then 10 ml of lithium cupric chloride was added and the mixture was refluxed for 1.25 hours, stirred at room temperature for 16 hours, quenched with water, washed with ammonium chloride solution, brine, dried and the solvent removed. The resulting oily residue was distilled in a Kugelrohr apparatus giving 52.4 g of the desired compound as a clear oil, B.P. (120°/0.5 mm).

reactant | magnesium | [Mg] | Mg
reactant | m-bromoanisole | 37.4 g | BrC=1C=C(C=CC1)OC | C7H7BrO
reactant | tetradecyl bromide | 52.68 g | C(CCCCCCCCCCCCC)Br | C14H29Br
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 3-Methoxy-1-tetradecyl-benzene | 52.4 g | COC=1C=C(C=CC1)CCCCCCCCCCCCCC | C21H36O
